US09193693B2
Step 2. 2-(3-Fluorophenyl)-3-(isopropyl(methyl)amino)quinoxaline-6-carboxylic acid
Into a 50-mL round-bottom flask, was placed methyl 2-(3-fluorophenyl)-3-(isopropyl(methyl)amino)quinoxaline-6-carboxylate (75 mg, 0.21 mmol, 1.00 equiv), methanol (15 mL), sodium hydroxide (42 mg, 1.05 mmol, 4.94 equiv), water (2 mL). The resulting solution was stirred for 2 hs at 50° C. in an oil bath. The resulting mixture was concentrated under vacuum. The resulting solution was diluted with 20 mL of H2O. The pH value of the aqueous solution was adjusted to 4-5 with aqueous hydrogen chloride (1 mol/L). The resulting solids were collected by filtration. The crude product (70 mg) was purified by Prep-HPLC with the following conditions (1#-Waters 2767-2): Column, SunFire Prep C18, 5 um, 19*150 mm; mobile phase, water with 0.05% TFA and CH3CN (50% CH3CN up to 80% in 8 min, up to 100% in 1.5 min); Detector, uv 220&254 nm. This resulted in 20 mg (27%) of 2-(3-fluorophenyl)-3-(isopropyl(methyl)amino)quinoxaline-6-carboxylic acid as a yellow solid.

reactant | methyl 2-(3-fluorophenyl)-3-(isopropyl(methyl)amino)quinoxaline-6-carboxylate | 0.21 mmol, 75 mg, 1.00 equiv | FC=1C=C(C=CC1)C1=NC2=CC=C(C=C2N=C1N(C)C(C)C)C(=O)OC | C20H20FN3O2
reactant | methanol | 15 mL | CO | CH4O
reactant | sodium hydroxide | 1.05 mmol, 42 mg, 4.94 equiv | [OH-].[Na+]
solvent | water | 2 mL | O | H2O
product | 2-(3-Fluorophenyl)-3-(isopropyl(methyl)amino)quinoxaline-6-carboxylic acid | FC=1C=C(C=CC1)C1=NC2=CC=C(C=C2N=C1N(C)C(C)C)C(=O)O | C19H18FN3O2
